US06500906B1
(a) Synthesis of 2-phenylamino-4-phenylimino-2-pentene
Then, 605 g of 2-phenylimino-4-pentanone solid and 449 g of anilinehydrochloride were dissolved in 2000 ml of ethanol, and the solution was refluxed for 2 hours. After the solution was cooled at the room temperature, green solid was precipitated. The green solid was separated and dried under vacuum pumping. Then the solid was suspended in 1000 ml of diethylether, and 150 g of NaOH solution in 1200 ml of water was added. The slurry mixture was, then, stirred for 1 hour at the room temperature. Then an organic layer was separated and dried over MgSO4. The solid was filtrated, and solvents were removed by vacuum pumping to get green solid. The green solid was recrystallized to get 650 g of solid (yield=75%). NMR analysis confirmed the structure; 1H-NMR(CDCl3) δ1.95(s, 2CH3), 4.93(s,═CH), 7.02(m, Ph), 7.31(m, Ph), and 13.2(brs, NH).

reactant | 2-phenylimino-4-pentanone | 605 g | C1(=CC=CC=C1)N=C(C)CC(C)=O | C11H13NO
reactant | anilinehydrochloride | 449 g | Cl.NC1=CC=CC=C1
solvent | ethanol | 2000 ml | C(C)O | C2H6O
product | 2-phenylamino-4-phenylimino-2-pentene | 650 g, yield=75% | C1(=CC=CC=C1)NC(C)=CC(C)=NC1=CC=CC=C1 | C17H18N2
